* Common-emitter amplifier with 2N5089

* Supply voltage
VCC vp  0 DC 9
V1  vi  0 SIN(0 0.1 50)

* Input coupling capacitor
C1 vi vb 0.1u

* Bias network (voltage divider)
R1 vp vb 470k     ; from VCC to base
R2 vb  0 100k     ; from base to ground

* Emitter resistor
RE ve  0 2.7k

* Collector resistor
RC vp vc 12k

* Transistor
Q1 vc vb ve Q2N5089 ; C B E

* Output
C2 vc vo 0.1u
RL vo  0 100k

* 2N5089 model
.model Q2N5089 NPN (IS=5E-14 BF=600 BR=50)

.tran 0 200m 0 1.0u
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo)
.options plotwinsize=0
.backanno
.end
